US08486398B2
1a 3-[(4-Methylamino-3-nitro-benzoyl)-phenyl-amino]propionic acid methyl ester
To a solution of 4-methylamino-3-nitro-benzoic acid chloride (23.3 mmol) and 3-phenylamino-propionic acid methyl ester (23.3 mmol) in 80 mL dry tetrahydrofuran (THF) triethylamine (50.2 mmol) was added dropwise under stirring at room temperature. After three hours the reaction mixture was evaporated to dryness, the remaining solid triturated with water and the solid product isolated through filtration.

reactant | 4-methylamino-3-nitro-benzoic acid chloride | 23.3 mmol | CNC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H7ClN2O3
reactant | 3-phenylamino-propionic acid methyl ester | 23.3 mmol | COC(CCNC1=CC=CC=C1)=O | C10H13NO2
reactant | tetrahydrofuran | 50.2 mmol, 80 mL | O1CCCC1 | C4H8O
product | 3-[(4-Methylamino-3-nitro-benzoyl)-phenyl-amino]propionic acid methyl ester | COC(CCN(C1=CC=CC=C1)C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)=O | C18H19N3O5
